US03983133
To 5.2 parts of 2-(nitramino)-2-imidazoline is added a solution of 7.5 parts of α-(aminomethyl)-p-chlorobenzyl alcohol in 40 parts of xylene while heating. Upon completion, sitrring is continued while heating in an oil-bath at 150°-160°C. and while the xylene is partly distilled off (till gas evolution ceases). The residue is cooled and after the addition of a few parts of acetone, the product is allowed to crystallize. It is filtered off, washed successively with acetone and diisopropylether, dried and the product is recrystallized from 4-methyl-2-pentanone, yielding p-chloro-α-(2-imidazolin-2-ylaminomethyl)benzyl alcohol; m.p. 156°-158°C.

reactant | 2-(nitramino)-2-imidazoline | N([N+](=O)[O-])C=1NCCN1 | C3H6N4O2
reactant | α-(aminomethyl)-p-chlorobenzyl alcohol | NCC(C1=CC=C(C=C1)Cl)O | C8H10ClNO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | p-chloro-α-(2-imidazolin-2-ylaminomethyl)benzyl alcohol | ClC1=CC=C(C(CNC=2NCCN2)O)C=C1 | C11H14ClN3O
